US07300951B2
To sodium cyanide (18.4 g, 375 mmol) and ammonium carbonate (39.0 g, 500 mmol) in H2O (450 mL) was added 2-methyl-4,4,4-trifluorobutanal (17.5 g, 125 mmol) in ethanol (450 mL). The reaction mixture was heated to 90° C. for 17 h. After cooling to 25° C., about 500 mL of solvent was removed in vacuo. Concentrated HCl was added to acidify the mixture to a pH of about 1 to about 2 and a precipitate formed. The mixture was filtered and washed with aqueous 1 N HCl to give 5-(3,3,3-trifluoro-1-methylpropyl)imidazolidine-2,4-dione as a white solid (15.5 g, 59%).

reactant | sodium cyanide | 375 mmol, 18.4 g | [C-]#N.[Na+]
reactant | ammonium carbonate | 500 mmol, 39.0 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | 2-methyl-4,4,4-trifluorobutanal | 125 mmol, 17.5 g | CC(C=O)CC(F)(F)F | C5H7F3O
reactant | H2O | 450 mL | O | H2O
solvent | ethanol | 450 mL | C(C)O | C2H6O
product | 5-(3,3,3-trifluoro-1-methylpropyl)imidazolidine-2,4-dione | 15.5 g, 59% | FC(CC(C)C1C(NC(N1)=O)=O)(F)F | C7H9F3N2O2
